US06838464B2
4-[(4-Isopropylpiperazino)carbomethoxy]nitrobenzene
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.14 g, 11.0 mmol) was added to a solution of 4-nitrophenoxyacetic acid (obtained as described in J. Med. Chem., 1984, 27, 967-78; 2.0 g, 10.0 mmol), 4-isopropylpiperazine (2.56 g, 20.0 mmol) and 1-hydroxybenzotriazol (2.06 g, 15.0 mmol) in DMF (50 ml) at 0° C. The mixture was stirred for 16 hours and volatile material was removed by evaporation. Water (50 ml) was added and the mixture was extracted with ethyl acetate (3×100 ml). The extracts were dried and concentrated by evaporation to give the product as a yellow solid (600 mg, 22%). NNR: 1.0 (d, 6H), 2.4 (m, 4H), 2.7 (m, 1H), 3.4 (m, 4H), 5.0 (s, 2H), 7.1 (d, 2H), 8.2 (d, 2H); MS (MH+): 307.9.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.0 mmol, 2.14 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-nitrophenoxyacetic acid | 10.0 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | 4-isopropylpiperazine | 20.0 mmol, 2.56 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | 1-hydroxybenzotriazol | 15.0 mmol, 2.06 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-[(4-Isopropylpiperazino)carbomethoxy]nitrobenzene | 600 mg, 22% | C(C)(C)N1CCN(CC1)COC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O4
